US04246274
A solution of 39.15 g (0.1 mol) of 2-(4-biphenylyl)-3-chloro-1-(2,4-dichlorophenyl)-propan-2-ol in 300 ml of acetonitrile is added dropwise to a suspension of 3.6 g (0.12 mol) of sodium hydride and 8.2 g (0.12 mol) of imidazole in 200 ml of acetonitrile. After heating to 80° C. for 3 hours, the cooled reaction mixture is filtered and the crystal mass is washed with water and with acetonitrile. 32.5 g (77% of theory) of 2-(4-biphenylyl)-1-(2,4-dichlorophenyl)-3-(imidazol-1-yl-propan-2-ol of melting point 168° C. are obtained.

reactant | 2-(4-biphenylyl)-3-chloro-1-(2,4-dichlorophenyl)-propan-2-ol | 0.1 mol, 39.15 g | C1(=CC=C(C=C1)C(CC1=C(C=C(C=C1)Cl)Cl)(CCl)O)C1=CC=CC=C1 | C21H17Cl3O
reactant | sodium hydride | 0.12 mol, 3.6 g | [H-].[Na+]
reactant | imidazole | 0.12 mol, 8.2 g | N1C=NC=C1 | C3H4N2
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | imidazol-1-yl-propan-2-ol | N1(C=NC=C1)CC(C)O | C6H10N2O
